US04169719
N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2,5-dichloro-3-thiophenesulfonamide
To a suspension of 12 g of 2-amino-4,6-dimethylpyrimidine in 300 ml of methylene chloride was added at ambient temperature 26 g of 2,5-dichloro-3-thiophenesulfonyl isocyanate. After stirring for 16 hours, the resulting solution was evaporated to dryness and the desired product, obtained as a solid residue, was triturated with ethyl ether and filtered. The solid product thus obtained melted at 192°-194° and showed infrared absorption peaks at 1550 cm-1, 1605 cm-1, and 1690 cm-1.

reactant | 2-amino-4,6-dimethylpyrimidine | 12 g | NC1=NC(=CC(=N1)C)C | C6H9N3
reactant | 2,5-dichloro-3-thiophenesulfonyl isocyanate | 26 g | ClC=1SC(=CC1S(=O)(=O)N=C=O)Cl | C5HCl2NO3S2
solvent | methylene chloride | 300 ml | C(Cl)Cl | CH2Cl2
product | N-[(4,6-dimethylpyrimidin-2-yl)aminocarbonyl]-2,5-dichloro-3-thiophenesulfonamide | CC1=NC(=NC(=C1)C)NC(=O)NS(=O)(=O)C1=C(SC(=C1)Cl)Cl | C11H10Cl2N4O3S2
